Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Oral purpura 
 
Major Surgical or Invasive Procedure:
Platelet Transfusion x 1
 
History of Present Illness:
___ history of multiple myeloma refractory to multiple therapies
summarized below, most recently ___ + dex,
complicated by ongoing pancytopenia receiving biweekly neupogen
and platelet transfusions.  Pt is admitted via ED a
fter presenting w/ new purplish mouth sores over the past 24 
hrs.
Lesions have increased over the past day. No gum bleeding, sore
throat/painful swallowing, melena or hematochezia. also notes sm
streaks blood when blowing nose but no epistaxis. No other
bleeding. No fever/chills, cough, hemoptysis. Pt recently
returned from camping trip w/ friends, able to enjoy the trip,
had a lot of help from friends. ___ any oral trauma. Has
single bruise on L arm no other areas. 
Pt also reports small cut on L thumb and notes that it is sore
and not healing well. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY: per OMR
diagnosed in ___.
Briefly, he was treated with RVD x 5 cycles, last in ___, underwent stem cell collection and received high-dose
chemotherapy with melphalan and autologous stem cell rescue on
___.  He was on maintenance lenalidomide from ___ to ___.  Had progression, switched to
carfilzomib, lenalidomide and dexamethasone, which unfortunately
he did not respond. then treated ith bortezomib,
dexamethasone and panobinostat from ___ to ___.  
His
treatment was attenuated by severe cytopenias and a lack of
response.  then treated with high-dose Solu-Medrol to see
if he would have an improvement in his blood counts, through
___.

TREATMENT: as of ___ starting ___ 3mg every other day,
days ___ of a 28 day cycle, with weekly dexamethasone 40mg.

PREVIOUS TREATMENTS:  
1) RVD x5 cycles, ___ to ___.  
2) High-dose chemotherapy with melphalan and autologous stem 
cell
rescue, ___.  
3) Maintenance lenalidomide 10 mg a day, days 1 to 21 of 28-day
cycle, ___ to ___.  
4) Carfilzomib, lenalidomide, and dexamethasone ___ to ___.
5) Bortezomib, dex and panobinostate (BDP), ___ High dose solumedrol 2g 2x/week ___

PAST MEDICAL HISTORY:
SOCIAL HISTORY: ___
Family History:
His mother died of acute leukemia and his sister
was treated for diffuse large B-cell lymphoma and remains in
remission after treatment.
HOME MEDICATIONS:
 
Physical Exam:
VITAL SIGNS: 98.7  100/68  74  14  99%ra 
HEENT:  MMM, bilateral buccal mucosa w/ mult purpuic lesions
largest 1cm some w/ sl ulceration, no OP lesions, hard palate w/
petechiae
Neck: supple, no JVD
CV:  RR, NL S1S2 no S3S4 or MRG
PULM:  CTAB
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
EXT:  warm well perfused, no edema
SKIN:  No rashes or skin breakdown, L post upper arm w/ evolving
ecchymosis, L thumb w/ <0.5mm sup abrasion w/ surrounding
erythema that is improving from admission, and no palpable 
abscess, has
full range of motion of L thumb w/o any pain on 
flexion/extension or adduction
NEURO:  alert and oriented x 4, ___, EOMI, no nystagmus, face
symmetric, no tongue deviation, full hand grip, shoulder shrug
and bicep flexion, full toe dorsiflexion and hip flexion against
resistance bilateral, sensation intact to light touch, no clonus 

 
Pertinent Results:
___ 09:05AM BLOOD WBC-1.2* RBC-2.40* Hgb-8.1* Hct-23.7* 
MCV-99* MCH-33.8* MCHC-34.2 RDW-19.8* RDWSD-68.7* Plt Ct-32*
___ 03:30AM BLOOD WBC-1.4* RBC-2.22* Hgb-7.4* Hct-21.6* 
MCV-97 MCH-33.3* MCHC-34.3 RDW-19.5* RDWSD-65.3* Plt Ct-32*
___ 11:00PM BLOOD WBC-1.4* RBC-2.43* Hgb-8.1* Hct-23.5* 
MCV-97 MCH-33.3* MCHC-34.3 RDW-19.9* RDWSD-66.2* Plt Ct-<5
 
Brief Hospital Course:
Mr ___ is a pleasant ___ with refractory kappa light chain
myeloma admitted w/ severe thrombocytopenia and buccal purpura.

#Severe thrombocytopenia - ___ underlying myeloma, also may be
exacerbated w/ initiation of ___. has mucosal purpura
but no other bleeding. Has been off ASA for some time.
received 1U PLt in ED (recently requiring 2x/week). Post 
transfusion
count was stable at 35. He did have a headache after the 
transfusion
and NCHCT was negative for ICH. Discussion was held with Dr. 
___ the plan is to hold ___ for now until he follows up 
with
him in clinic this week on ___. 

#Neutropenia - Cont filgrastim ___. He received an 
injection
prior to discharge. 

#Anemia - ___ MM, Hgb stable

#Thumb cellulitis - currently very superficial abrasion. He was 
started
on cephalexin and improved quickly overnight. There were no 
palpable masses
and he had no pain and was able to flex/extend his thumb without 
difficulty
and was discharged on a 7 day course of cephalexin. He will 
follow up with 
his oncologist and informed to ___ if it worsens or develops 
pain in the thumb.

#Myeloma, kappa light chain.  The patient has progressed on
several different lines of therapy and has worsening cytopenias,
limiting rx options.  He will see his oncologist this week to 
discuss
further. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Dexamethasone 40 mg PO WEEKLY 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. ___ 2 mg oral DAILY 
5. Lorazepam 0.5 mg PO Q6H:PRN insomnia 
6. Filgrastim 480 mcg SC 2X WEEKLY 
7. Multivitamins 1 TAB PO DAILY 
8. Acyclovir 400 mg PO Q8H 
9. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
10. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
11. Omeprazole 20 mg PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. Pyridoxine 50 mg PO DAILY 
14. TraMADOL (Ultram) 50 mg PO Q6H:PRN mild pain 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Filgrastim 480 mcg SC 2X WEEKLY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Lorazepam 0.5 mg PO Q6H:PRN insomnia 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
9. Prochlorperazine 10 mg PO Q6H:PRN nausea 
10. Pyridoxine 50 mg PO DAILY 
11. TraMADOL (Ultram) 50 mg PO Q6H:PRN mild pain 
12. Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*28 Capsule Refills:*0
13. Maalox/Diphenhydramine/Lidocaine 5 mL PO Q4H:PRN swish and 
swallow for mouth pain 
  
14. Medication
Magic Mouth Wash:

Diphenhydramine 12.5 mg/5 mL 1 part
Viscous lidocaine 2% 1 part
Maalox 1 part

Swish and swallow 5 mL no more than Q4H PRN for oral pain. 
Dispense 1 bottle. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Thrombocytopenia
Multiple Myeloma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you in the hospital. You were 
admitted for thrombocytopenia. You received an urgent platelet 
transfusion and you had an urgent head CT scan since you had a 
headache. It did not show any bleeding inside your brain and 
since your headache improved quickly, it was likely a tension 
headache from the stress of admission and lack of sleep. You 
should return to care if you have worsening headaches or new 
spontaneous bleeding. You also had a mild cellulitis of your 
thumb. You were moving it very well without any pain so you were 
started on an oral antibiotic and you improved quickly. 

Please follow up with Dr. ___ to discuss the plan of care 
for your myeloma. 
 
Followup Instructions:
___